US05521209
14.0 g (51.8 mmol) of N-allyl-N-[3-(3-pyridyl)[-allyl]-2,2,2-trifluoroacetamide were dissolved in 1.40 ml of acetone, and 30 ml of 10% strength aqueous hydrochloric acid were added and the mixture was irradiated under nitrogen in a boro-silicate glass apparatus at room temperature with a 150 watt high-pressure mercury lamp for 48 h. The reaction solution was then concentrated, taken up in 150 ml of water and adjusted to pH 8-9 with aqueous ammonia solution. The aqueous phase was extracted twice with tert-butyl methyl ether, and the combined organic phases were dried over sodium sulfate and concentrated. The residue was fractionated by column chromatography (silica gel, methylene chloride+2% methanol) to yield 6.2 g (42%) of unchanged N-allyl-N-[3- (3-pyridyl)allyl]-2,2,2-trifluoroacetamide and 3.7 g (26%) of 2,2,2-trifluoro-1-[exo-6-(3-pyridyl) -3-azabicyclo[3.2.0]hept-3-yl]ethanone as a dark oil.

reactant | 3-(3-pyridyl)[-allyl]-2,2,2-trifluoroacetamide | N1=CC(=CC=C1)C=CCNC(C(F)(F)F)=O | C10H9F3N2O
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | 1.40 ml | CC(=O)C | C3H6O
product | N-allyl-N-[3- (3-pyridyl)allyl]-2,2,2-trifluoroacetamide | 6.2 g, 42% | C(C=C)N(C(C(F)(F)F)=O)CC=CC=1C=NC=CC1 | C13H13F3N2O
